US07205295B2
Intermediate 24: 8-Fluoro-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carbaldehyde.
Intermediate 23 was reacted to form 8-fluoro-6-hydroxymethyl-4H-benzo[1,4]oxazin-3-one in an analogous manner to intermediate 3. 1H NMR (DMSO-d6) δ 4.34 (s, 2H), 4.59 (s, 2H), 6.66 (s, 1H), 6.74 (s, 1H), 6.7 (s, 1H), 10.86 (bs, 1H). To a solution of 8-fluoro-6-hydroxymethyl-4H-benzo[1,4]oxazin-3-one (4.75 g, 24.09 mmol) in dichloromethane (250 mL) at room temperature was added 4-methylmorpholine-N-oxide (4.23 g, 36.1 mmol), TPAP (tetraproplyammonium perruthenate) (0.042 g, 1.2 mmol), and 4A molecular sieves (0.500 g). The reaction was stirred for overnight. The reaction mixture was then filtered through a pad of celite. The celite cake was washed with dichloromethane (100 mL). The solution was then concentrated under reduced pressure to yield a dark oil. This solution was then filtered through SiO2 and washed with ethyl acetate to remove final traces of the TPAP catalyst to yield the title compound. MS: M+−1=194.1 Da.

reactant | 8-fluoro-6-hydroxymethyl-4H-benzo[1,4]oxazin-3-one | 24.09 mmol, 4.75 g | FC1=CC(=CC=2NC(COC21)=O)CO | C9H8FNO3
reactant | 4-methylmorpholine-N-oxide | 36.1 mmol, 4.23 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
catalyst | TPAP | 1.2 mmol, 0.042 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 8-Fluoro-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carbaldehyde | FC1=CC(=CC=2NC(COC21)=O)C=O | C9H6FNO3
